US09340549B2
NaHCO3 (0.665 g, 7.91 mmol) was added to a 0° C. solution of (+/−)-methyl 2-amino-2-(pyridin-3-yl)acetate dihydrochloride (commercially available from Enamine Building Blocks, Kiev, Ukraine) (0.541 g, 2.261 mmol) in EtOH (11.3 mL). Di-tert-butyl dicarbonate (0.503 g, 2.306 mmol) was added, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was then partitioned between DCM and water. The aqueous phase was separated and extracted with DCM. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford methyl 2-((tert-butoxycarbonyl)amino)-2-(pyridin-3-yl)acetate (0.584 g, 2.193 mmol, 97% yield) as an orange brown oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.39 (s, 9H), 3.63 (s, 3H), 5.31 (d, J=8.12 Hz, 1H), 7.39 (dd, J=7.78, 4.74 Hz, 1H), 7.79 (d, J=7.92 Hz, 1H), 7.87-8.01 (m, 1H), 8.52 (dd, J=4.79, 1.56 Hz, 1H), 8.59 (d, J=2.05 Hz, 1H). m/z (ESI) 267 (M+H)+.

reactant | NaHCO3 | 7.91 mmol, 0.665 g | C(=O)(O)[O-].[Na+]
reactant | (+/−)-methyl 2-amino-2-(pyridin-3-yl)acetate dihydrochloride | Cl.Cl.NC(C(=O)OC)C=1C=NC=CC1
reactant | Di-tert-butyl dicarbonate | 2.306 mmol, 0.503 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 11.3 mL | CCO | C2H6O
product | methyl 2-((tert-butoxycarbonyl)amino)-2-(pyridin-3-yl)acetate | 2.193 mmol, 0.584 g, 97% yield | C(C)(C)(C)OC(=O)NC(C(=O)OC)C=1C=NC=CC1 | C13H18N2O4
